US08247556B2
5-Nitrobenzo[d]thiazole (150 mg) was dissolved in THF (20 mL) at 0° C. and AcOH (1 mL) was added followed by Zinc dust (1.65 g). Mixture was stirred at RT for 1 h and was filtered on silica pad (rinsed with EtOAc). Solvent was evaporated, residue was diluted with NaHCO3 and extracted with EtOAc. Organic phases was dried, filtered and evaporated to give benzo[d]thiazol-5-amine.

reactant | 5-Nitrobenzo[d]thiazole | 150 mg | [N+](=O)([O-])C=1C=CC2=C(N=CS2)C1 | C7H4N2O2S
reactant | AcOH | 1 mL | CC(=O)O | C2H4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | Zinc | 1.65 g | [Zn] | Zn
product | benzo[d]thiazol-5-amine | S1C=NC2=C1C=CC(=C2)N | C7H6N2S
